US06787543B2
Under nitrogen atmosphere, to a solution of oxalyl chloride (1.64 ml) in dichloromethane (34 ml) under −65° C., was added dropwise a solution of dimethyl sulfoxide (2.0 ml) in dichloromethane (15 ml) and stirred for 10 minutes at the same temperature. A solution of (2S)-2-(hydroxymethyl)piperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (3.29 g) in dichloromethane (24 ml) was dropped into the above solution over 5 minutes under −65° C. The reaction mixture was stirred at the same temperature for 15 minutes, then stirred at −45° C. for 90 minutes. Triethylamine (7.85 ml) was added to the solution under −40° C., and the mixture was stirred at 0° C. for 20 minutes. The mixture was poured into saturated aqueous ammonium chloride (100 ml). The organic layer was washed with brine, dried over magnesium sulfate, and evaporated to give (2R)-2-formylpiperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (3.33 g) as a colorless syrup.

reactant | oxalyl chloride | 1.64 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 2.0 ml | CS(=O)C | C2H6OS
reactant | (2S)-2-(hydroxymethyl)piperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 3.29 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)CO | C18H26N2O5
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | dichloromethane | 34 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 24 ml | ClCCl | CH2Cl2
solvent | Triethylamine | 7.85 ml | C(C)N(CC)CC | C6H15N
product | (2R)-2-formylpiperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 3.33 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OCC1=CC=CC=C1)C=O | C18H24N2O5
